US05716708
Methyl t-butyl ketone was condensed with ethyl acetate in the presence of sodamide to yield 5,5-dimethyl-2,4-hexanedione. This material was reacted with phosphorus pentachloride to yield the divinyl chloride, which was in turn dehydrohalogenated with sodamide to give 5,5-dimethyl-1,3-hexadiyne. This alkyne was then dimerized using the procedure of Hay (see e.g. Hay, A. S., J. Org. Chem. 27, 3320 (1962)), using copper(I) chloride-tetramethylethylenediamine (TMEDA) complex as the catalyst, to yield the desired t-butyl endcapped tetrayne. The tetrayne melted at 99° C. and decomposed between 130° C. and 140° C. It is also stable to moderate pressures; exposure to 40 kbar pressure for one hour caused no changes in the IR spectrum, and at 60 kbar only about 2% graphitization was seen.

reactant | Methyl t-butyl ketone | C(C)(C)(C)C(=O)C | C6H12O
reactant | sodamide | [NH2-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,5-dimethyl-2,4-hexanedione | CC(C(CC(C)=O)=O)(C)C | C8H14O2
